US07585885B2
2-Chloro-6-(1-ethoxyvinyl)-isonicotinic acid methyl ester
Add 2,6-dichloro-isonicotinic acid methyl ester, tetrakis(triphenylphosphine)palladium(0) (0.763 g, 0.66 mmol), triphenylphosphine (0.346 g, 1.32 mmol), tributyl(1-ethoxyvinyl)tin (5.0 g, 13.9 mmol) and toluene (30 mL), to a sealed flask flushed with nitrogen. Heat at 100° C. overnight and cool to room temperature. Filter the mixture through a filtering agent, concentrate and purify (silica gel chromatography eluting with 25:75 ethyl acetate:hexanes) to give the title compound (84%).

reactant | 2,6-dichloro-isonicotinic acid methyl ester | COC(C1=CC(=NC(=C1)Cl)Cl)=O | C7H5Cl2NO2
reactant | triphenylphosphine | 1.32 mmol, 0.346 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tributyl(1-ethoxyvinyl)tin | 13.9 mmol, 5.0 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.66 mmol, 0.763 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-6-(1-ethoxyvinyl)-isonicotinic acid methyl ester | 84% | COC(C1=CC(=NC(=C1)C(=C)OCC)Cl)=O | C11H12ClNO3
